Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Palpitations
 
Major Surgical or Invasive Procedure:
Pacemaker placement
 
History of Present Illness:
Ms. ___ is a ___ year old female, with past history of 
hypertension and glaucoma, now presenting for fatigue and 
palpitations.  
 Patient reports that for the past 1 week, she has been having 
palpitations and increased dyspnea. Patient denies any headache, 
occasional left arm discomfort. Patient was seen in the office, 
and at that time reported she took her blood pressure the night 
before at home and noted it was BP 200/120. She took HCTZ, and 
in the office was found to have a BP 146/74. At that time, she 
had no chest pain or palpitations, and in office EKG showed new 
left bundle branch block compared to prior from ___, and 
therefore patient was given 325 mg aspirin, and was transferred 
to the ED for further evaluation of new bundle branch block.  
 
 In the ED intial vitals were: 6 98.2 66 122/76 15 98% RA  
 Labs/studies notable for:  
 WBC 8, Hgb 12.7, Hct 38.7, Platelet 290. PMN 45%  
 PTT 40.5 Sodium 135, potassium 3.5, Chloride 98, Bicarb 25, BUN 
19, Creatinine 0.9, Glucose 90. Ca: 10.3 Mg: 2.2 P: 4.2  
 Trop-T: <0.01  
 EKG showed LBBB. The patient was monitored on telemtry and 
developed 2nd degree heart block. When ECG was obtained the 
patient again had a LBBB. EP was consulted with recommendation 
to admit to ___ service.  
 CXR showed:  
 Cardiomediastinal silhouette is within normal limits. There is 
streaky atelectasis at the lung bases without definite 
consolidation. There is no pulmonary edema or pleural effusions. 
There are no pneumothoraces.  
 Patient was given: no medications  
 Vitals on transfer: 59 120/60 16 99% Room  
 On the floor the patient notes she feels well. She denies any 
palpitations currently. She ntoes she has had palpitations over 
the last week without any associated chest pain, SOB, or 
diaphoresis. She denies any syncope or presyncope. She notes 
that her palpitations improve with drinking water and last about 
10 minutse at a time. She denies any chest pain but notes 2 
weeks of left arm pain that improves with tylenol.  
 
Past Medical History:
Renal Mass - Angiolypoma, reportedly stable by Urology. 
Hyperlipidemia  
Hypertension  
Trigger Finger  
Colon Polyp  
Corenal Dystrophy  
Pterygium of eye  
Cataract  
Ocular Hypertension 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION  PHYSICAL EXAMINATION:
==================================  
VS: T= afebrile BP= 138/63 HR= 71 RR= 18 O2 sat= 97% RA  
GENERAL: In NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple without JVD  
CARDIAC: normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric 

DISCHARGE PHYSICAL EXAMINATION:
=============================== 
VS: 97.4  114/65  (115-130s)/50-60s  65 (60-70s)  16  98%RA 
GENERAL: Laying comfortably in bed, NAD  
HEENT: NC/AT, EOMI, PERRL, no LAD 
NECK: Supple without JVD
CHEST: Pacemaker site in left chest with dressing in place. 
Trace dried blood on dressing but no surrounding erythema.  
CARDIAC: RR, +S1/S2, no m/r/g  
LUNGS: CTAB, no r/r/w  
ABDOMEN: Soft, NT, ND, +BS throughout  
EXTREMITIES: Warm, dry and well perfused. No c/c/e  
SKIN: No stasis dermatitis  
PULSES: Distal pulses palpable and symmetric 
 
Pertinent Results:
ADMISSION LABS:
================
___ 03:30PM BLOOD WBC-8.0 RBC-4.16 Hgb-12.7 Hct-38.7 MCV-93 
MCH-30.5 MCHC-32.8 RDW-13.6 RDWSD-45.8 Plt ___
___ 03:30PM BLOOD Neuts-45.3 ___ Monos-7.4 Eos-1.5 
Baso-0.8 Im ___ AbsNeut-3.62 AbsLymp-3.57 AbsMono-0.59 
AbsEos-0.12 AbsBaso-0.06
___ 03:30PM BLOOD ___ PTT-40.5* ___
___ 04:55PM BLOOD Glucose-90 UreaN-19 Creat-0.9 Na-135 
K-3.5 Cl-98 HCO3-25 AnGap-16
___ 04:55PM BLOOD cTropnT-<0.01
___ 09:00PM BLOOD cTropnT-<0.01
___ 04:55PM BLOOD Calcium-10.3 Phos-4.2 Mg-2.2
___ 06:00AM BLOOD TSH-1.2

IMAGING:
========
CXR ___:
Cardiomediastinal silhouette is within normal limits.  There is 
streaky atelectasis at the lung bases without definite 
consolidation.  There is no pulmonary edema or pleural 
effusions. There are no pneumothoraces.

TTE ___:
The left atrium is normal in size. Normal left ventricular wall 
thickness, cavity size, and regional/global systolic function 
(biplane LVEF = 69 %). The estimated cardiac index is normal 
(>=2.5L/min/m2). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) appear structurally normal with good 
leaflet excursion and no aortic stenosis or aortic 
regurgitation. The mitral valve appears structurally normal with 
trivial mitral regurgitation. There is no mitral valve prolapse. 
The estimated pulmonary artery systolic pressure is normal. 
There is no pericardial effusion.

IMPRESSION: Normal study. Normal biventricular cavity sizes with 
preserved regional and global biventricular systolic function. 
No structural heart disease or pathologic flow identified.

CLINICAL IMPLICATIONS:
Based on ___ AHA endocarditis prophylaxis recommendations, the 
echo findings indicate prophylaxis is NOT recommended. Clinical 
decisions regarding the need for prophylaxis should be based on 
clinical and echocardiographic data.  

Discharge Labs:
================
___ 04:25AM BLOOD WBC-7.8 RBC-4.24 Hgb-12.7 Hct-39.5 MCV-93 
MCH-30.0 MCHC-32.2 RDW-13.2 RDWSD-45.5 Plt ___
___ 04:25AM BLOOD Glucose-109* UreaN-20 Creat-1.1 Na-137 
K-3.8 Cl-97 HCO3-30 AnGap-14
___ 04:25AM BLOOD Calcium-9.8 Phos-4.4 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ year old female, with past history of 
hypertension, hyperlipidemia, and glaucoma presenting with 
fatigue and palpitations found to have new LBBB on ECG and new 
Mobitz type II heart block intermittently on telemtry.  
 
# Palpitations: The patient initially presented to her PCPs 
office with palpitations found to have new LBBB at which point 
she was sent to the ED. Upon admission, troponins negative and 
EKG remarkable for LBBB, however no ST changes. TTE showed 
LVEF>55% without wall motion abnormalities. On telemetry, 
patient was noted to have mobitz type II that was exacerbated 
with exercise. The etiology of her new LBBB is unclear. TSH was 
within normal limits and ischemic work-up was negative. No new 
rashes and no history that predisposes to lyme exposure. It is 
likely that her condition is secondary to progression of 
conduction disease. EP was consulted and the patient underwent 
pacemaker placement on ___ without complications. Plan to 
follow-up in ___ clinic on ___ at 8:30am.

# Glaucoma: Continued home latanoprost  

# Hyperlipidemia: Continued home pravastatin  

# Hypertension: Continued home HCTZ  
 
# Vitamin D deficiency: Continued home vitamin D

Transitional Issues:
====================
-s/p pacemaker placement for new LBBB and mobitz type II block 
on telemetry
-ischemic work-up negative and TTE showed LVEF>55% without wall 
motion abnormalities
-Follow-up with Dr. ___ at ___ scheduled on 
___ at 8:30am
-Had episodes of hypertension prior to admission, however, blood 
pressure well controlled while in the hospital. Consider adding 
ACE-I as an out-patient
-discharged on Keflex to 500mg Q12h for four doses to complete 3 
day total antibiotic course
-needs outpatient MIBI to evaluate for underlying coronary 
artery disease 
-Discharge weight: 74.4kg
-Code: Full
-Contact: ___ (daughter): ( ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
2. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
3. Pravastatin 40 mg PO QPM 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
4. Multivitamins 1 TAB PO DAILY 
5. Pravastatin 40 mg PO QPM 
6. Vitamin D ___ UNIT PO 1X/WEEK (MO) 
7. Cephalexin 500 mg PO Q12H Duration: 4 Doses 
RX *cephalexin 500 mg 1 tablet(s) by mouth every 12 hours Disp 
#*4 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: New Left Bundle Branch Block, Mobitz Type II Block
Secondary: Hypertension, hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you during your stay at ___ 
___. You were admitted for the 
palpitations you were experiencing. An EKG of your heart was 
taken which showed a conduction abnormality called a left bundle 
branch block. You were seen by the Electrophysiology physicians 
who reviewed you telemetry and determined that the safest option 
is to place a pacemaker. You tolerated the procedure well and 
will follow-up with the device clinic on ___.

We also made an appointment for you to see Dr. ___ 
cardiologist who saw you in the hospital) at his ___ office 
on ___. You should also make an appointment to see your 
primary care doctor.

We are discharging you on an antibiotic called Keflex 
(cephalexin), which you should take twice a day for the next two 
days.

Best Wishes,
Your ___ Team
 
Followup Instructions:
___